US04045560
A solution of 12-acetoxy-9,10-dihydro-9,10-ethanoanthracene-9-carboxylic acid (1.0 g) in benzene (10.0 ml) and thionyl chloride (4.0 ml) was refluxed for 4 hours. Evaporation of excess thionyl chloride and benzene gave 12-acetoxy-9,10-dihydro-9,10-ethanoanthracene-9-carboxylic acid chloride. The acid chloride was dissolved in dry acetone (25.0 ml), and a solution of sodium azide (0.63 g) in water (1.3 ml) was added thereto while ice cooling. The resulting mixture was stirred while ice cooling for 2 hours. The reaction mixture was diluted with water and extracted with benzene. The benzene extract was washed with water, dried over anhydrous sodium sulfate, refluxed for 2 hours and evaporated to dryness to give 9-isocyanato-12-acetoxy-9,10-dihydro-9,10-ethanoanthracene.

reactant | 12-acetoxy-9,10-dihydro-9,10-ethanoanthracene-9-carboxylic acid | 1.0 g | C(C)(=O)OC1CC2C=3C=CC=CC3C1(C1=CC=CC=C21)C(=O)O | C19H16O4
reactant | thionyl chloride | 4.0 ml | S(=O)(Cl)Cl | Cl2OS
solvent | benzene | 10.0 ml | C1=CC=CC=C1 | C6H6
product | 12-acetoxy-9,10-dihydro-9,10-ethanoanthracene-9-carboxylic acid chloride | C(C)(=O)OC1CC2C=3C=CC=CC3C1(C1=CC=CC=C21)C(=O)Cl | C19H15ClO3
